US03976656
The hexamethylene tetramine quaternary salt of p-n-butoxyphenacyl bromide (40.0 g) was stirred vigorously in ethanol (320 ml) and concentrated hydrochloric acid (40 ml) was added. The reaction mixture was allowed to stand overnight and deposited a large quantity of solid. More ethanol (250 ml) was added. After 60 more hours the reaction mixture was warmed gently and filtered. The precipitate was washed with 50 ml of warm ethanol. p-n-Butoxyphenacylammonium chloride (20.1 g -- 85% yield) was precipitated as a white powder by slowly dropping the alcohol solution into 3.0 l of dry ether. The precipitate was filtered and dried. The nuclear magnetic resonance spectrum in deuterium oxide at 60°C on a Varian A-60 spectrometer showed triplets centered at 1.10 and 4.05 (--CH2CH3 and --O CH2CH2 --), an aromatic A2B2 system at 6.80, 6.95, 7.75 and 7.90, a singlet at 4.68 (--CO CH2N--) and a broad absorption around 1.70 (aliphatic --CH2 -- chain). Integrated intensities were in accord with the structure of p-n-butoxyphenacylammonium chloride. p-n-Butoxyphenacylammonium chloride (20.0 g) and terephthaloyl chloride (8.0 g) were refluxed in dry pyridine (150 ml) in the absense of moisture for one hour. The mixture was then cooled and poured, with stirring, into water (500 ml) and the solid was filtered, washed with water, dried and recrystallized from 500 ml of pyridine. A white crystalline solid (7.7 g -- 35% yield) was obtained. The solid, upon analysis, proved to be N,N'-di-p-n-butoxyphenacylterephthalimide. Calculated for for C32H36N2O6 : C 70.6; H 6.62; N 5.14%. Found: C 70.66, 70.41; H 6.68, 6.56; N 5.20, 5.14%. The nuclear magnetic resonance spectrum (A-60) in deuterodimethyl sulfoxide at 105°C clearly showed triplets centered at 0.87 and 3.94 (CH3CH2 and --O CH2CH2 --), a singlet at 4.55 (--COCH2NH--), an A2B2 aromatic quartet at 6.72, 6.86, 7.63 and 7.78 (terminal aromatic protons) and aromatic singlet at 7.69 (central aromatic ring).

reactant | hexamethylene tetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | p-n-butoxyphenacyl bromide | 40.0 g | C(CCC)OC1=CC=C(C(CBr)=O)C=C1 | C12H15BrO2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | ethanol | 320 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | p-n-Butoxyphenacylammonium chloride | 20.1 g, 85% yield | [Cl-].C(CCC)OC1=CC=C(C(C[NH3+])=O)C=C1 | InChI=1S/C12H17NO2.ClH/c1-2-3-8-15-11-6-4-10(5-7-11)12(14)9-13;/h4-7H,2-3,8-9,13H2,1H3;1H
